US09376442B2
4-[2-(Cyclopropylmethoxy)-5-fluoro-4-methoxyphenyl]-6-methyl-N-(1-propionylpiperidin-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide
Starting from 4-[2-(cyclopropylmethoxy)-5-fluoro-4-methoxyphenyl]-6-methyl-N-piperidin-4-yl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide hydrochloride (example D.f44) and commercially available propionyl chloride the title compound is obtained as colorless solid.

reactant | 4-[2-(cyclopropylmethoxy)-5-fluoro-4-methoxyphenyl]-6-methyl-N-piperidin-4-yl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide hydrochloride | Cl.C1(CC1)COC1=C(C=C(C(=C1)OC)F)C=1C2=C(N=CN1)C(=C(N2)C)C(=O)NC2CCNCC2
reactant | propionyl chloride | C(CC)(=O)Cl | C3H5ClO
product | 4-[2-(Cyclopropylmethoxy)-5-fluoro-4-methoxyphenyl]-6-methyl-N-(1-propionylpiperidin-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide | C1(CC1)COC1=C(C=C(C(=C1)OC)F)C=1C2=C(N=CN1)C(=C(N2)C)C(=O)NC2CCN(CC2)C(CC)=O | C27H32FN5O4
